US04740622
Preparation of 4,5-dinitro-2-[β-(2-hydroxyethoxy)ethoxy]phenol
0.4 mol (26.4 g) of 85% pure potassium hydroxide pellets is added at 70° C. to 200 ml of diethylene glycol. 0.2 mol (42.4 g) of 4,5-methylenedioxy-1,2-dinitrobenzene is added to this solution. The heating is maintained for 31/2 hours. After dilution with ice-cold water and neutralization with 22 ml of acetic acid, the expected product precipitates. After being dried, it is recrystallized from 96° strength alcohol. It melts at 135° C.

reactant | potassium hydroxide | 0.4 mol, 26.4 g | [OH-].[K+]
reactant | 4,5-methylenedioxy-1,2-dinitrobenzene | 0.2 mol, 42.4 g | C1OC2=CC(=C(C=C2O1)[N+](=O)[O-])[N+](=O)[O-] | C7H4N2O6
reactant | diethylene glycol | C(COCCO)O | C4H10O3
product | 4,5-dinitro-2-[β-(2-hydroxyethoxy)ethoxy]phenol | [N+](=O)([O-])C1=CC(=C(C=C1[N+](=O)[O-])O)OCCOCCO | C10H12N2O8
